US04192871
11β-Chloroacetoxy-3β-hydroxy-5α-pregn-16-en-20-one
3β,11β-Bischloroacetoxy-5α-pregn-16-en-20-one (1.2 g) was stirred at 100° in dioxan (20 ml) containing water (4 ml) with sodium bicarbonate (1.26 g) for 4 hours. The mixture was cooled, poured into water and the precipitate collected by filtration, dried and filtered through silica gel (20 g) in ethylacetate. The eluate was evaporated and the residue crystallised from petrol containing a little ethyl acetate to yield the title compound (684 mg), m.p. 160.5°-162°, [α]D +75.2°.

reactant | 3β,11β-Bischloroacetoxy-5α-pregn-16-en-20-one | 1.2 g | ClCC(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(C[C@@H]([C@@H]3[C@]2(CC1)C)OC(CCl)=O)C | C25H34Cl2O5
reactant | water | 4 ml | O | H2O
reactant | sodium bicarbonate | 1.26 g | C([O-])(O)=O.[Na+]
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 11β-Chloroacetoxy-3β-hydroxy-5α-pregn-16-en-20-one | 684 mg | ClCC(=O)O[C@@H]1[C@@H]2[C@]3(CC[C@@H](C[C@@H]3CC[C@H]2[C@@H]2CC=C(C(C)=O)[C@]2(C1)C)O)C | C23H33ClO4
